US09421205B2
(b) tert-Butyl 3-(4-aminophenyl)piperidine-1-carboxylate (I23)
To a solution of 3-(4-nitrophenyl)pyridine (I22) (0.590 g, 2.947 mmol) in 1 M HCl (3 mL) and methanol (30 mL) was added PtO2 (0.059 g) under an atmosphere of nitrogen. The reaction was then subjected to a 40 psi hydrogen atmosphere in a Parr hydrogenator for 24 hours, the catalyst was removed by filtration, and the solvents were removed in vacuo. The resulting yellow solid was again dissolved in 1 M HCl (3 mL) and methanol (30 mL) and PtO2 (0.059 g) was added under an atmosphere of nitrogen. The reaction was subjected to a 40 psi hydrogen atmosphere in a Parr hydrogenator for 24 hours, the reaction mixture was filtered through celite which was washed with EtOAc (3×10 mL) and water (3×10 mL) and the filtrate was concentrated in vacuo to give the crude material (0.720 g) as a pale brown glassy solid. This material was dissolved in DCM (25 mL), DMF (5 mL) and methanol (20 mL) and treated with triethylamine (1.438 mL, 10.315 mmol) followed by Boc anhydride (0.675 g, 3.094 mmol). The reaction was stirred at room temperature for 20 hours, then concentrated in vacuo and EtOAc (100 mL) and sat. aq. NaHCO3 (50 mL) were added and the layers were separated. The aqueous layer was extracted with EtOAc (70 mL), the organics were combined and washed with water (100 mL), brine (100 mL), water (100 mL), brine (100 mL), dried (Na2SO4), filtered and concentrated in vacuo to give a pink foam. The crude product was purified by silica gel chromatography (Biotage Isolera, 40 g Si cartridge, 0-55% EtOAc in petroleum benzine 40-60° C.) to give the title compound (I23) (0.435 g, 53% yield over 2 steps) as a pink solid; 1H NMR (400 MHz, d6-DMSO) δ 6.91-6.86 (m, 2H), 6.52-6.47 (m, 2H), 4.88 (s, 2H), 3.99-3.80 (m, 2H), 2.80-2.54 (m, 2H), 2.37 (tt, J=11.6, 3.7 Hz, 1H), 1.85-1.75 (m, 1H), 1.70-1.62 (m, 1H), 1.53 (ddd, J=24.4, 12.4, 3.3 Hz, 1H), 1.46-1.33 (m, 10H). LCMS Method C: rt 4.86 min; m/z 177.2 [M-Boc+2H]+.

reactant | 3-(4-nitrophenyl)pyridine | 2.947 mmol, 0.590 g | [N+](=O)([O-])C1=CC=C(C=C1)C=1C=NC=CC1 | C11H8N2O2
reactant | hydrogen | [H][H] | H2
reactant | triethylamine | 10.315 mmol, 1.438 mL | C(C)N(CC)CC | C6H15N
reactant | Boc anhydride | 3.094 mmol, 0.675 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | HCl | 1 M, 3 mL | Cl | ClH
solvent | methanol | 30 mL | CO | CH4O
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
catalyst | PtO2 | 0.059 g | O=[Pt]=O
solvent | methanol | 20 mL | CO | CH4O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | tert-Butyl 3-(4-aminophenyl)piperidine-1-carboxylate | 53% yield | NC1=CC=C(C=C1)C1CN(CCC1)C(=O)OC(C)(C)C | C16H24N2O2
